US08492582B2
Benzaldehyde (0.027 mL) and sodium triacetoxyborohydride (70 mg) were added to a methylene chloride (1 mL) suspension of tert-butyl 4-(2-aminophenyl)-2-(5-phenylpyridine-3-carboxamido)benzoate (0.10 g) at room temperature, followed by stirring at the same temperature for 3 hours and 30 minutes. Methylene chloride (2 mL) was added to the reaction mixture at room temperature, followed by stirring at the same temperature for 1 hour and 50 minutes. Acetic acid (0.013 mL) and sodium triacetoxyborohydride (47 mg) were added to the reaction mixture at room temperature, followed by stirring at the same temperature for 2 hours and 50 minutes. Sodium triacetoxyborohydride (47 mg), methylene chloride (3 mL), and benzaldehyde (0.027 mL) were added to the reaction mixture at room temperature, followed by heating to reflux for 1 hour and 30 minutes. The reaction mixture was cooled to room temperature, and then sodium triacetoxyborohydride (47 mg) was added thereto, followed by heating to reflux for 4 hours and 40 minutes. The reaction mixture was cooled to room temperature, and then chloroform and water were added thereto. The organic layer was separated and dried over anhydrous magnesium sulfate, and the solvent was evaporated under reduced pressure. The obtained residue was purified by silica gel column chromatography [eluent:85-60% hexane/ethyl acetate] to obtain 78 mg of tert-butyl 4-(2-(benzylamino)phenyl)-2-(5-phenylpyridine-3-carboxamido)benzoate as a light yellow solid.

reactant | Benzaldehyde | 0.027 mL | C(C1=CC=CC=C1)=O | C7H6O
reactant | sodium triacetoxyborohydride | 70 mg | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | tert-butyl 4-(2-aminophenyl)-2-(5-phenylpyridine-3-carboxamido)benzoate | 0.10 g | NC1=C(C=CC=C1)C1=CC(=C(C(=O)OC(C)(C)C)C=C1)NC(=O)C=1C=NC=C(C1)C1=CC=CC=C1 | C29H27N3O3
reactant | sodium triacetoxyborohydride | 47 mg | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | Sodium triacetoxyborohydride | 47 mg | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | benzaldehyde | 0.027 mL | C(C1=CC=CC=C1)=O | C7H6O
reactant | sodium triacetoxyborohydride | 47 mg | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
solvent | water | O | H2O
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
solvent | methylene chloride | 3 mL | C(Cl)Cl | CH2Cl2
solvent | Acetic acid | 0.013 mL | C(C)(=O)O | C2H4O2
solvent | Methylene chloride | 2 mL | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 1 mL | C(Cl)Cl | CH2Cl2
product | tert-butyl 4-(2-(benzylamino)phenyl)-2-(5-phenylpyridine-3-carboxamido)benzoate | 78 mg | C(C1=CC=CC=C1)NC1=C(C=CC=C1)C1=CC(=C(C(=O)OC(C)(C)C)C=C1)NC(=O)C=1C=NC=C(C1)C1=CC=CC=C1 | C36H33N3O3
